US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), [3-(1H-1,2,4-triazol-1-yl)phenyl]methylamine (110 mg, 0.636 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (108 mg, 0.173 mmol) and NaOtBu (246 mg, 2.560 mmol) in DMA (5 mL) was heated at 85° C. for 45 minutes. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2-[1,2,4]triazol-1-yl-benzylamino)-2H-phthalazin-1-one (24 mg) as a yellow solid, 1H (400 MHz, d6-DMSO) δ: 4.54 (d, 2H), 6.86 (s, 1H), 7.18 (dd, 1H), 7.43 (d, 1H), 7.54 (t, 1H), 7.76 (m, 2H), 7.91 (s, 1H), 7.94 (d, 1H), 8.22 (s, 1H), 9.28 (s, 1H), 12.35 (s, 1H) ppm; m/z (M+1) 352.88.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | [3-(1H-1,2,4-triazol-1-yl)phenyl]methylamine | 0.636 mmol, 110 mg | N1(N=CN=C1)C=1C=C(C=CC1)CN | C9H10N4
reactant | rac-BINAP | 0.173 mmol, 108 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.560 mmol, 246 mg | CC(C)(C)[O-].[Na+]
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-[1,2,4]triazol-1-yl-benzylamino)-2H-phthalazin-1-one | 24 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)N1N=CN=C1)=O | C17H13ClN6O
